resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.997276
R2 0 n2 0.998748
R3 0 n4 1.010068
R4 n1 n3 0.981408
R5 n1 n5 0.999073
R6 n2 n3 1.019073
R7 n2 n6 1.010463
R8 n3 n7 1.007689
R9 n4 n5 1.013425
R10 n4 n6 1.018849
R11 n5 n7 1.018313
R12 n6 n7 1.012517
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
